US07939661B2
Step 1: 4-(Quinolin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To a degassed solution of 4-bromo-quinoline (4.00 g, 19.23 mmol, 1.0 equiv; commercially available) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (4.62 g, 23.08 mmol, 1.2 equiv; commercially available) in toluene (40 mL) was added KOtert-Bu (5.40 g, 48.07 mmol, 2.5 equiv), dicyclohexyl-(2′,4′,6′-triisopropyl-biphenyl-2-yl)-phosphane (0.18 g, 0.39 mmol, 0.02 equiv; X-Phos ligand [CAS RN 564483-18-7]; commercially available from Strem Chemicals, USA) and tris(dibenzylideneacetone) dipalladium(0) (1.59 g, 1.54 mmol, 0.08 equiv). The reaction mixture was stirred under nitrogen at 100° C. for 16 h, cooled to rt, filtered and the filtrate concentrated by evaporation under reduced pressure. The crude material was purified with silica column chromatography eluting with a gradient of ethyl acetate/triethylamine (10:0→20:1) to provide 3.40 g (54%) of the title compound in 90% purity according to 1H NMR. 1H NMR (400 MHz, DMSO): δ 1.39 (s, 9H), 1.55-1.70 (m, 2H), 1.93 (d, J=10.4 Hz, 2H), 2.93 (br s, 2H), 3.96-4.06 (m, 2H), 4.06-4.15 (m, 1H), 7.00 (d, J=7.0 Hz, 1H), 7.62-7.71 (m, 1H), 7.86-7.95 (m, 2H), 8.54 (d, J=6.9 Hz, 2H), 8.60 (d, J=8.6 Hz, 1H).

reactant | 4-bromo-quinoline | BrC1=CC=NC2=CC=CC=C12 | C9H6BrN
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | KOtert-Bu | 48.07 mmol, 5.40 g, 2.5 equiv | O([K])C(C)(C)C
reactant | dicyclohexyl-(2′,4′,6′-triisopropyl-biphenyl-2-yl)-phosphane | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | X-Phos | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 1.54 mmol, 1.59 g, 0.08 equiv | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 4-(Quinolin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 3.40 g, 54% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=NC2=CC=CC=C12 | C19H25N3O2
